US03992456
For example, when a mixture of carbon dioxide, water, butadiene, dioxane solvent and palladium catalyst is reacted under certain conditions, a 50-60 percent yield of octadienol is realized compared to the 10 percent yield of octadienol that is obtained in the absence of carbon dioxide. In t-butanol solvent, a mixture of water, carbon dioxide, butadiene, solvent and catalyst yields at least 70 percent octadienol compared to a 10 percent yield in the absence of carbon dioxide. The total reaction is outlined below. ##SPC1##

reactant | water | O | H2O
reactant | carbon dioxide | C(=O)=O | CO2
reactant | butadiene | C=CC=C | C4H6
reactant | t-butanol | C(C)(C)(C)O | C4H10O
product | octadienol | at least 70 percent | C(=CC=CCCCC)O | C8H14O
